US05972975
EXAMPLE 44 2-Amino-5-methoxycarbonyl-4-methylpyridine
A mixture of 2-amino-5-carboxy-4-methylpyridine (100 mg, 0.657 mmol) in 7:3 benzene-methanol (4 mL) was treated with (trimethylsilyl)diazomethane (2M solution in hexanes, 0.33 mL, 0.66 mmol). The mixture was evaporated and the residue chromatographed on silica gel eluting with 25% acetone/hexane to afford pure title compound; yield 88 mg (81%).

reactant | 2-amino-5-carboxy-4-methylpyridine | 0.657 mmol, 100 mg | NC1=NC=C(C(=C1)C)C(=O)O | C7H8N2O2
reactant | benzene-methanol | 4 mL | C1(=CC=CC=C1)CO | C7H8O
reactant | (trimethylsilyl)diazomethane | 0.66 mmol, 2M, 0.33 mL | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
product | 2-Amino-5-methoxycarbonyl-4-methylpyridine | NC1=NC=C(C(=C1)C)C(=O)OC | C8H10N2O2
